US08455488B2
Synthesis of 2-(1-methyl-2-(thiophen-2-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-13)
According to the procedure described in the synthesis method of Compound VI-2 with the modification that the reaction was carried out for 2 hours, ethyl 2-(1-methyl-2-(thiophen-2-ylmethylcarbamoyl)hydrazinyl)acetate (Compound V-13) 1.38 g (5.1 mmol) was reacted with lithium hydroxide monohydrate 426 mg (10.1 mmol) to obtain the title compound 1.0 g (82%).

reactant | ethyl 2-(1-methyl-2-(thiophen-2-ylmethylcarbamoyl)hydrazinyl)acetate | 5.1 mmol, 1.38 g | CN(NC(NCC=1SC=CC1)=O)CC(=O)OCC | C11H17N3O3S
reactant | lithium hydroxide monohydrate | 10.1 mmol, 426 mg | O.[OH-].[Li+]
product | 2-(1-methyl-2-(thiophen-2-ylmethylcarbamoyl)hydrazinyl)acetic acid | 1.0 g, 82% | CN(NC(NCC=1SC=CC1)=O)CC(=O)O | C9H13N3O3S
